US04618609
4-<2-{[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}ethoxy>-6-(2-pyridylmethoxy)pyrimidine was prepared by the method described in Example 13 using 4-(2-chlorophenyl)-3-ethoxycarbonyl-2-(2-hydroxyethoxymethyl)-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine and 4-chloro-6-(2-pyridylmethoxy)pyrimidine as the starting materials. The product had m.p. 64°-67° C.

reactant | 4-(2-chlorophenyl)-3-ethoxycarbonyl-2-(2-hydroxyethoxymethyl)-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCO)C(=O)OCC | C20H24ClNO6
reactant | 4-chloro-6-(2-pyridylmethoxy)pyrimidine | ClC1=NC=NC(=C1)OCC1=NC=CC=C1 | C10H8ClN3O
product | 6-(2-pyridylmethoxy)pyrimidine | N1=C(C=CC=C1)COC1=CC=NC=N1 | C10H9N3O
